US05157041
A solution of 1.25 g of 1-[3(S)-(benzyloxyformamido)-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-2(S)-piperidinecarboxamide in 80 ml of ethanol was hydrogenated over 10% palladium-on-carbon at 20° C. and under atmospheric pressure for 16 hours. The catalyst was removed by filtration and the filtrate was evaporated to give 0.844 g of 1-[3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-2(S)-piperidinecarboxamide as a pale yellow gum; MS: m/e 348 [M+H]+.

reactant | 1-[3(S)-(benzyloxyformamido)-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-2(S)-piperidinecarboxamide | 1.25 g | C(C1=CC=CC=C1)OC(=O)N[C@H]([C@@H](CN1[C@@H](CCCC1)C(=O)NC(C)(C)C)O)CC1=CC=CC=C1 | C28H39N3O4
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | [Pd] | Pd
product | 1-[3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-2(S)-piperidinecarboxamide | 0.844 g | N[C@H]([C@@H](CN1[C@@H](CCCC1)C(=O)NC(C)(C)C)O)CC1=CC=CC=C1 | C20H33N3O2
